US05424329
3-(Diethylamino)-5-methoxy-1H-indole-2-carboxamide, monohydrochloride
Prepared from ethyl 3-(diethylamino)-5-methoxy-1H-indole-2-carboxylate (Unangst PC, et al., J. Heterocyclic Chem. 1987;24:817) and lithium amide by the procedure described in Example 18, with the exception that dilute acetic acid is substituted for 1.0N HCl during the wash of the ethyl acetate extracts. The crude product is purified by flash chromatography (silica gel, 30% ethyl acetate in dichloromethane elution) to give a foam. The foam is dissolved in ether and treated with gaseous HCl to provide the product salt in 36% yield after recrystallization from acetonitrile; mp 244° C.-dec.

reactant | ethyl 3-(diethylamino)-5-methoxy-1H-indole-2-carboxylate | C(C)N(C1=C(NC2=CC=C(C=C12)OC)C(=O)OCC)CC | C16H22N2O3
reactant | lithium amide | [NH2-].[Li+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | HCl | 1.0N | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 3-(Diethylamino)-5-methoxy-1H-indole-2-carboxamide, monohydrochloride | 36% yield | Cl.C(C)N(C1=C(NC2=CC=C(C=C12)OC)C(=O)N)CC | InChI=1S/C14H19N3O2.ClH/c1-4-17(5-2)13-10-8-9(19-3)6-7-11(10)16-12(13)14(15)18;/h6-8,16H,4-5H2,1-3H3,(H2,15,18);1H
